US09447030B2
To a solution of 4′-fluoro-4-nitro-[1,1′-biphenyl]-3-amine (1.5 g, 6.46 mmol) in DCM (50 mL) were added triphosgene (1.917 g, 6.46 mmol) and TEA (8.5 g, 84 mmol) at 0° C. The reaction mixture was stirred at room temperature for two hours. tert-butyl azetidin-3-ylmethylcarbamate (1.203 g, 6.46 mmol) was then added at 0° C. and the reaction mixture was stirred at room temperature for four hours. The reaction crude was diluted with saturated citric acid solution and extracted with DCM. The organic layer was washed with water, brine, dried over Na2SO4, filtered and concentrated to yield crude residue which was purified by column chromatography eluting with 30% EtOAc in Hexane to afford tert-butyl((1-((4′-fluoro-4-nitro-[1,1′-biphenyl]-3-yl)carbamoyl)azetidin-3-yl)methyl)carbamate (2 g, 69.7% yield).

reactant | 4′-fluoro-4-nitro-[1,1′-biphenyl]-3-amine | 6.46 mmol, 1.5 g | FC1=CC=C(C=C1)C1=CC(=C(C=C1)[N+](=O)[O-])N | C12H9FN2O2
reactant | triphosgene | 6.46 mmol, 1.917 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | tert-butyl azetidin-3-ylmethylcarbamate | 6.46 mmol, 1.203 g | N1CC(C1)CNC(OC(C)(C)C)=O | C9H18N2O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | tert-butyl((1-((4′-fluoro-4-nitro-[1,1′-biphenyl]-3-yl)carbamoyl)azetidin-3-yl)methyl)carbamate | 2 g, 69.7% yield | C(C)(C)(C)OC(NCC1CN(C1)C(NC=1C=C(C=CC1[N+](=O)[O-])C1=CC=C(C=C1)F)=O)=O | C22H25FN4O5
